US07501411B2
Step 1: 1-Trifluoroacetyl-4-(4-nitrophenyl)piperidine
Triethylamine (1.0 mL, 7.3 mmol) and 4-(4-nitrophenyl)piperidine (1.0 g, 4.8 mmol) are stirred in DCM (25 mL) at 0° C. under N2 and trifluoroacetic anhydride (0.81 mL, 5.8 mmol) is added. The mixture is stirred for three days, allowing the temperature to warm to rt. The solution is then diluted with DCM (50 mL) and washed with water (2×15 mL), NaHCO3 (50% sat. aq., 2×15 mL) and brine (15 mL). The solvent is dried over MgSO4 and evaporated to afford the desired compound (1.46 g, 4.66 mmol).

reactant | Triethylamine | 7.3 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(4-nitrophenyl)piperidine | 4.8 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1CCNCC1 | C11H14N2O2
reactant | trifluoroacetic anhydride | 5.8 mmol, 0.81 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Trifluoroacetyl-4-(4-nitrophenyl)piperidine | 4.66 mmol, 1.46 g | FC(C(=O)N1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-])(F)F | C13H13F3N2O3
